US05489592
5-Bromo-1-(3-bromo-1-propenyl)-2-fluorobenzene
A mixture of 4.3 g (0.02 mol) of 5-bromo-2-fluoro-1-(1-propenyl) benzene, 100 ml of carbon tetrachloride, 0.07 g of azobisisobutyronitrile and 3.6 g (0.02 mol) of N-bromosuccinimide is heated for 5 h at reflux. The solid is filtered, the filtrate is evaporated under vacuum and the residue used without other purification in the following stage: Yd.: 5.4 g (91%)

reactant | 5-bromo-2-fluoro-1-(1-propenyl) benzene | 0.02 mol, 4.3 g | BrC=1C=CC(=C(C1)C=CC)F | C9H8BrF
reactant | azobisisobutyronitrile | 0.07 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 0.02 mol, 3.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromo-1-(3-bromo-1-propenyl)-2-fluorobenzene | BrC=1C=CC(=C(C1)C=CCBr)F | C9H7Br2F
